US07183273B2
AMD8887: Preparation of N-(2-pyridinylmethyl)-N′-[2-[(1H-imidazol-2-ylmethyl)amino]ethyl]-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (hydrobromide salt)
To a stirred solution of N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-N′-(2-aminoethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (333 mg, 0.57 mmol) in dry MeOH (5 mL) was added 2-imidazolecarboxaldehyde (110 mg, 1.14 mmol) and the mixture was stirred for 17 hours. To this solution was added sodium borohydride (110 mg, 2.91 mmol) in one portion and the mixture was stirred for 40 min. The reaction mixture was concentrated in vacuo and partitioned between CH2Cl2 (25 mL) and saturated aqueous sodium bicarbonate (25 mL). The aqueous layer was washed with CH2Cl2 (2×20 mL) and the combined organic phases were dried (Na2SO4), filtered and concentrated in vacuo. The crude amine was dissolved in THF (10 mL) and protected with di-t-butyldicarbonate (1.0 g, 4.59 mmol). Purification of the crude material by column chromatography on silica gel (CH2Cl2/MeOH, 96:4 followed by 9:1) gave the desired product (110 mg, 22%) as a yellow oil.

reactant | N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-N′-(2-aminoethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.57 mmol, 333 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CC1=CC=C(C=C1)CN(C1CCCC=2C=CC=NC12)CCN)CC1=NC=CC=C1 | C31H34N6O4S
reactant | 2-imidazolecarboxaldehyde | 1.14 mmol, 110 mg | N1C(=NC=C1)C=O | C4H4N2O
reactant | sodium borohydride | 2.91 mmol, 110 mg | [BH4-].[Na+]
reactant | di-t-butyldicarbonate | 4.59 mmol, 1.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 5 mL | CO | CH4O
product | N-(2-pyridinylmethyl)-N′-[2-[(1H-imidazol-2-ylmethyl)amino]ethyl]-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 110 mg, 22% | N1=C(C=CC=C1)CNCC1=CC=C(C=C1)CN(C1CCCC=2C=CC=NC12)CCNCC=1NC=CN1 | C29H35N7
